US07135475B2
A mixture of 5-chloro-1,3-dimethyl-1H-pyrazole-4-carboxylic acid (40 mg, 0.231 mmol) in dichloromethane (2.0 mL) at 25° C. was treated with triphenylphosphine (72 mg, 0.28 mmol). The reaction was cooled to 0° C. and then was treated with N-chlorosuccinimide (37 mg, 0.28 mmol). This mixture was stirred at 0° C. for 5 min and then was warmed to 25° C. for 15 min. At this time, the reaction was treated with 3-cyclopropylmethyl-1-(2-fluoro-benzyl)-8-(4-methylamino-benzyl)-3,7-dihydro-purine-2,6-dione (100 mg, 0.23 mmol) and triethylamine (0.04 mL, 0.28 mmol). This mixture was stirred at 25° C. for 24 h. At this time, the reaction was diluted with dichloromethane (50 mL) and then was washed with a IN aqueous hydrochloric acid solution (1×50 mL) and a saturated aqueous sodium bicarbonate solution (1×50 mL). The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 1:99 methanol/dichloromethane) afforded 5-chloro-1,3-dimethyl-1H-pyrazole-4-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide (54 mg, 48%) as a white solid: LR-MS for C30H29ClFN7O3 (M+H)+ at m/z=590.

reactant | 5-chloro-1,3-dimethyl-1H-pyrazole-4-carboxylic acid | 0.231 mmol, 40 mg | ClC1=C(C(=NN1C)C)C(=O)O | C6H7ClN2O2
reactant | triphenylphosphine | 0.28 mmol, 72 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-chlorosuccinimide | 0.28 mmol, 37 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 3-cyclopropylmethyl-1-(2-fluoro-benzyl)-8-(4-methylamino-benzyl)-3,7-dihydro-purine-2,6-dione | 0.23 mmol, 100 mg | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC)=O)CC1=C(C=CC=C1)F)=O | C24H24FN5O2
reactant | triethylamine | 0.28 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-chloro-1,3-dimethyl-1H-pyrazole-4-carboxylic acid {4-[3-cyclopropylmethyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-methyl-amide | 54 mg, 48% | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)N(C(=O)C=1C(=NN(C1Cl)C)C)C)=O)CC1=C(C=CC=C1)F)=O | C30H29ClFN7O3
